US08193187B2
7-Bromo-8-hydroxymethyl-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 1-(7))
Lithium aluminium hydride (38.5 mg, 1.01 mmol) was suspended in anhydrous tetrahydrofuran (0.5 mL) under nitrogen atmosphere. An anhydrous tetrahydrofuran solution (1.5 mL) of 7-bromo-8-methoxycarbonyl-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 1, 101 mg, 0.323 mmol) was added dropwise thereto at 0° C., and the mixture was stirred for 1 hour at the same temperature. Ethyl acetate (10 mL), water (10 mL), and 1N aqueous hydrochloride solution (2 mL) were added thereto successively and the mixture was partitioned. The organic layer was washed with saturated brine (10 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (67.4 mg) as an orange amorphous product. (Yield 74%)

reactant | Lithium aluminium hydride | 1.01 mmol, 38.5 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 7-bromo-8-methoxycarbonyl-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | 0.323 mmol, 101 mg | BrC1=CC=C2NC(C(NC2=C1C(=O)OC)=O)(C)C | C12H13BrN2O3
reactant | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrochloride | 1N, 2 mL | Cl | ClH
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 7-Bromo-8-hydroxymethyl-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | 67.4 mg, Yield 74% | BrC1=CC=C2NC(C(NC2=C1CO)=O)(C)C | C11H13BrN2O2
